US04087544
In an analogous manner as described in Example 2, 1-aminomethyl-1-cyclohexane-acetic acid hydrochloride is reacted with methanol in the presence of hydrogen chloride. After evaporation in a vacuum the residue is recrystallised from methanol/ether to give pure methyl 1-aminomethyl-1-cyclohexane-acetate; m.p. 150° - 152° C. (hydrochloride)

reactant | 1-aminomethyl-1-cyclohexane-acetic acid hydrochloride | Cl.NCC1(CCCCC1)CC(=O)O
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | CO | CH4O
product | methyl 1-aminomethyl-1-cyclohexane-acetate | NCC1(CCCCC1)CC(=O)OC | C10H19NO2
